US06147088
Step 10A 4-chloro-2-[2-(3,5-dimethylphenyl)-acetylamino]-benzoic acid methyl ester
To a solution of (3,5-dimethylphenyl)acetyl chloride (2.58 g in 20 mL dry dichloroethane) was added 2.5 g 2-amino-4-chlorobenzoic acid methyl ester and the mixture heated to reflux on an oil bath. After 2 hours, the pot was cooled to room temperature and the solvent removed in vacuo. Recrystallization of the crude product from methanol gave the title compound (4.05 g).

reactant | 2-amino-4-chlorobenzoic acid methyl ester | 2.5 g | COC(C1=C(C=C(C=C1)Cl)N)=O | C8H8ClNO2
reactant | (3,5-dimethylphenyl)acetyl chloride | 20 mL, 2.58 g | CC=1C=C(C=C(C1)C)CC(=O)Cl | C10H11ClO
product | 4-chloro-2-[2-(3,5-dimethylphenyl)-acetylamino]-benzoic acid methyl ester | 4.05 g | COC(C1=C(C=C(C=C1)Cl)NC(CC1=CC(=CC(=C1)C)C)=O)=O | C18H18ClNO3
